US04265890
To a stirred mixture of 200 g. of concentrated sulfuric acid and 50 g. of concentrated nitric acid at 0°-5° C. is added, in portions, 12.6 g. (0.05 mole) of 9-acetamido-6-chloro-3-methyl-2,3,4,5-tetrahydro-1H-3-benzazepine. The solution is stirred at 0°-5° C. for 2 hours and then it is poured cautiously into 500 ml. of ice/water. The solution is made alkaline with sodium hydroxide. After being stirred at 25° C. for 16 hours, the mixture is filtered to give 9-amino-6-chloro-3-methyl-8-nitro-2,3,4,5-tetrahydro-1H-3-benzazepine.

reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
reactant | 9-acetamido-6-chloro-3-methyl-2,3,4,5-tetrahydro-1H-3-benzazepine | 0.05 mole | C(C)(=O)NC1=CC=C(C2=C1CCN(CC2)C)Cl | C13H17ClN2O
reactant | sodium hydroxide | [OH-].[Na+]
product | 9-amino-6-chloro-3-methyl-8-nitro-2,3,4,5-tetrahydro-1H-3-benzazepine | NC1=C(C=C(C2=C1CCN(CC2)C)Cl)[N+](=O)[O-] | C11H14ClN3O2
